US05391541
In flask were placed 7.47 grams (0.019 mole) of 3-(2,3-dichloro-5-nitrophenylmethyl)- 1 -methyl-6-trifluoromethyluracil and 5.68 grams (0.94 mole) of powdered iron in 115 mL of ethanol and 9 mL of water. Dropwise, 9.0 mL of concentrated hydrochloric acid was added to the reaction mixture. Upon completion of addition, the reaction mixture was heated to 65° C. and maintained at this temperature for three hours. After being cooled to ambient conditions, the reaction mixture was filtered through Celite filter aid, and the collected precipitate was washed several times with ethanol. The solid removed by filtration was then dissolved in ethyl acetate, and this solution was washed twice with a saturated aqueous solution of sodium chloride. The dark brown solution was dried over anhydrous sodium sulfate and filtered. The solvent was evaporated from the filtrate under reduced pressure, leaving 1.62 grams of 3-(5-amino-2,3-dichlorophenylmethyl)-1-methyl-6-trifluoromethyluracil as a solid. This reaction was repeated.

reactant | 3-(2,3-dichloro-5-nitrophenylmethyl)- 1 -methyl-6-trifluoromethyluracil | 0.019 mole, 7.47 grams | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])CN1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H8Cl2F3N3O4
reactant | hydrochloric acid | 9.0 mL | Cl | ClH
solvent | ethanol | 115 mL | C(C)O | C2H6O
solvent | water | 9 mL | O | H2O
catalyst | iron | 0.94 mole, 5.68 grams | [Fe] | Fe
product | 3-(5-amino-2,3-dichlorophenylmethyl)-1-methyl-6-trifluoromethyluracil | 1.62 grams | NC=1C=C(C(=C(C1)CN1C(N(C(=CC1=O)C(F)(F)F)C)=O)Cl)Cl | C13H10Cl2F3N3O2
